datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C=C(C)C(=O)[O:21][H:20].CCCC(C(CC)CO)C(CC)C(=O)[O-:10]>>C=C(C)C(=O)[O-:21].CCCC(C(CC)CO)C(CC)C(=O)[O:10][H:20] 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ccc(CC(c2nnn[n-]2)[NH2:10])cc1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ccc(CC(c2nnn[n-]2)[NH2+:10][H:20])cc1 10=20;20,21=21",
"CC(C(=O)[O-])(c1ccccc1)[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CC(C(=O)[O-])(c1ccccc1)[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"Cc1ccc2c(c1)[NH:10]CC[NH2+]2.Nc1nc[nH+]c([S:21][H:20])c1N>>Cc1ccc2c(c1)[NH+:10]([H:20])CC[NH2+]2.Nc1nc[nH+]c([S-:21])c1N 10=20;20,21=21",
"Cc1cc(N(C)C)cc[n+]1[O:21][H:20].NS(=O)(=O)c1cccc([NH2:10])c1>>Cc1cc(N(C)C)cc[n+]1[O-:21].NS(=O)(=O)c1cccc([NH2+:10][H:20])c1 10=20;20,21=21",
"Cc1ccc2c(c1O)-c1c-2ccc(C)c1[O-:10].Clc1cc(Cl)c([O:21][H:20])c(C[NH+]2CCCCC2)c1Cl>>Cc1ccc2c(c1O)-c1c-2ccc(C)c1[O:10][H:20].Clc1cc(Cl)c([O-:21])c(C[NH+]2CCCCC2)c1Cl 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].FC(F)C[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.FC(F)C[NH2+:10][H:20] 10=20;20,21=21",
"CSCc1cccc[n+:21]1[H:20].O=C(C1CC1(Br)Br)[O-:10]>>CSCc1cccc[n:21]1.O=C(C1CC1(Br)Br)[O:10][H:20] 10=20;20,21=21",
"CN1C(=O)[N-:10]C(=O)c2c1ncn2C.c1c2c(cc3[nH]c([O:21][H:20])nc13)CCCC2>>CN1C(=O)[N:10]([H:20])C(=O)c2c1ncn2C.c1c2c(cc3[nH]c([O-:21])nc13)CCCC2 10=20;20,21=21",
"CC(C)[NH+:21](c1ccccc1)[H:20].CCCCCCCCCC(=O)[O-:10]>>CC(C)[NH:21]c1ccccc1.CCCCCCCCCC(=O)[O:10][H:20] 10=20;20,21=21",
"CCn1cc[n:10]c1C.CNc1nc(SC)[n+:21]([H:20])c2[nH]ncc12>>CCn1cc[n+:10]([H:20])c1C.CNc1nc(SC)[n:21]c2[nH]ncc12 10=20;20,21=21",
"C1C[NH+:21]([H:20])CS1.CCOc1cc[n:10]c([O-])n1>>C1C[NH:21]CS1.CCOc1cc[n+:10]([H:20])c([O-])n1 10=20;20,21=21",
"CC[N+:21](CC)(CCNc1ccnc2ccccc12)[H:20].O=C([O-])/C=C\C[NH2:10]>>CC[N:21](CC)CCNc1ccnc2ccccc12.O=C([O-])/C=C\C[NH2+:10][H:20] 10=20;20,21=21",
"Cc1cc(C(c2ccc([NH3+])cc2)c2ccc([NH2:10])cc2)ccc1[NH3+].c1ccc(C[N+:21](Cc2ccccc2)(Cc2ccccc2)[H:20])cc1>>Cc1cc(C(c2ccc([NH3+])cc2)c2ccc([NH2+:10][H:20])cc2)ccc1[NH3+].c1ccc(C[N:21](Cc2ccccc2)Cc2ccccc2)cc1 10=20;20,21=21",
"CC(C)[N+:21](CCCl)(CCCl)[H:20].Fc1ccccc1[O-:10]>>CC(C)[N:21](CCCl)CCCl.Fc1ccccc1[O:10][H:20] 10=20;20,21=21",
"C1CSCC[NH:10]CCN1.O=S(=O)(C(F)(F)Cl)[NH:21][H:20]>>C1CSCC[NH+:10]([H:20])CCN1.O=S(=O)(C(F)(F)Cl)[NH-:21] 10=20;20,21=21",
"C[N:10](C)CC[S-].c1cc[n+:21]([H:20])c(-c2[nH]c3ccccc3[nH+]2)c1>>C[N+:10](C)(CC[S-])[H:20].c1cc[n:21]c(-c2[nH]c3ccccc3[nH+]2)c1 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ncc(CC[NH2:10])[nH]1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ncc(CC[NH2+:10][H:20])[nH]1 10=20;20,21=21",
"CCOCCn1c(CN2CC[NH+](CCCCn3cc(C(=O)O)cn3)CC2)[n+:21]([H:20])c2ccccc21.[NH3+]CCC[NH2:10]>>CCOCCn1c(CN2CC[NH+](CCCCn3cc(C(=O)O)cn3)CC2)[n:21]c2ccccc21.[NH3+]CCC[NH2+:10][H:20] 10=20;20,21=21",
"CCC1(CC)SC(=O)[N:21]([H:20])C1=O.NCCCC[NH2:10]>>CCC1(CC)SC(=O)[N-:21]C1=O.NCCCC[NH2+:10][H:20] 10=20;20,21=21",
"O=C(CC[C@H]1CC[C@H](O)CC1)[O-:10].S=C1N/C(=[S+:21]\[H:20])NC1c1ccccc1>>O=C(CC[C@H]1CC[C@H](O)CC1)[O:10][H:20].S=C1NC(=[S:21])NC1c1ccccc1 10=20;20,21=21",
"C1C[NH:10]CS1.N#CC(C#N)=N[N:21](c1cccc(Cl)c1Cl)[H:20]>>C1C[NH+:10]([H:20])CS1.N#CC(C#N)=N[N-:21]c1cccc(Cl)c1Cl 10=20;20,21=21",
"CCC(=O)C(CC(C)[N+:21]1([H:20])CCOCC1)(c1ccccc1)c1ccccc1.C[N:10](C)c1ccc2ccccc2c1>>CCC(=O)C(CC(C)[N:21]1CCOCC1)(c1ccccc1)c1ccccc1.C[N+:10](C)(c1ccc2ccccc2c1)[H:20] 10=20;20,21=21",
"Fc1ccc[n:10]c1.O=C(Cc1cc[n+:21]([H:20])cc1)c1ccccc1>>Fc1ccc[n+:10]([H:20])c1.O=C(Cc1cc[n:21]cc1)c1ccccc1 10=20;20,21=21",
"Cc1ccc(C(C)C)cc1[O:21][H:20].O=C([O-])C1(C(=O)[O-:10])CCCC1>>Cc1ccc(C(C)C)cc1[O-:21].O=C([O-])C1(C(=O)[O:10][H:20])CCCC1 10=20;20,21=21",
"CCCCCC(=O)[O:21][H:20].CNC(=O)c1ccccc1[O-:10]>>CCCCCC(=O)[O-:21].CNC(=O)c1ccccc1[O:10][H:20] 10=20;20,21=21",
"C[NH+]1CCC(n2nc(-c3ccccc3)c(Cc3ccccc3)c2[O:21][H:20])CC1.O=C([O-])/C=C\C[NH2:10]>>C[NH+]1CCC(n2nc(-c3ccccc3)c(Cc3ccccc3)c2[O-:21])CC1.O=C([O-])/C=C\C[NH2+:10][H:20] 10=20;20,21=21",
"C[C@@H]1C[NH:10]C[C@H](C)[NH2+]1.C[NH+:21](CCc1ccc(O)c(O)c1)[H:20]>>C[C@@H]1C[NH+:10]([H:20])C[C@H](C)[NH2+]1.C[NH:21]CCc1ccc(O)c(O)c1 10=20;20,21=21",
"Brc1c[n+](CC[NH2:10])cc2ccccc12.O=C1C(c2ccccc2)=C([O:21][H:20])C(=O)c2ccccc21>>Brc1c[n+](CC[NH2+:10][H:20])cc2ccccc12.O=C1C(c2ccccc2)=C([O-:21])C(=O)c2ccccc21 10=20;20,21=21",
"CCCNC(=O)C(Cc1c[nH]cn1)NC(=O)c1cccc(CNCC[NH2:10])n1.S=C(N1CCCC1)[S:21][H:20]>>CCCNC(=O)C(Cc1c[nH]cn1)NC(=O)c1cccc(CNCC[NH2+:10][H:20])n1.S=C(N1CCCC1)[S-:21] 10=20;20,21=21",
"O=C1C=C(S(=O)(=O)[O-])NC(=O)[N-:10]1.c1cncc(CC[NH2+:21][H:20])c1>>O=C1C=C(S(=O)(=O)[O-])NC(=O)[N:10]1[H:20].c1cncc(CC[NH2:21])c1 10=20;20,21=21",
"C=C(C)[C@H]1C[NH2+][C@H](C(=O)[O-:10])[C@H]1CC(=O)O.CC1(C)SC(=O)[N:21]([H:20])C1=O>>C=C(C)[C@H]1C[NH2+][C@H](C(=O)[O:10][H:20])[C@H]1CC(=O)O.CC1(C)SC(=O)[N-:21]C1=O 10=20;20,21=21",
"CC(C)P(=O)(C(C)C)[O-:10].[NH3+]C(Cc1c(I)[nH]c[n+:21]1[H:20])C(=O)[O-]>>CC(C)P(=O)(C(C)C)[O:10][H:20].[NH3+]C(Cc1c(I)[nH]c[n:21]1)C(=O)[O-] 10=20;20,21=21",
